US09102671B2
To a nitrogen-flushed microwave vial was added (R)-tert-butyl 2-(2-bromo-5-fluorophenyl)-4,4-difluoro-pyrrolidine-1-carboxylate (I-49) (304 mg, 0.80 mmol), molybdenum hexacarbonyl (211 mg, 0.80 mmol), trans-di-μ-acetatobis[2-di-o-tolylphosphino)benzyl]-dipalladium(II) (Palladacycle) (30 mg, 4 mol %), THF (1.6 mL), 1,8-diazabicyclo-[5.4.0]undec-7-ene (DBU) (239 μL, 1.6 mmol) and isopropylamine (171 μL, 2.0 mmol). The vial was capped and then heated at 150° C. for 30 minutes in a Biotage microwave reactor. The cooled reaction mixture was diluted with EtOAc and filtered through Celite. The combined filtrates were washed successively with saturated aqueous NH4Cl, water, 2% citric acid and brine, then dried over sodium sulfate and concentrated. The residue was purified by silica chromatography with EtOAc/Hex (5-30%) as eluent, to yield (R)-tert-butyl 4,4-difluoro-2-(5-fluoro-2-(isopropylcarbamoyl)phenyl)pyrrolidine-1-carboxylate (I-50) as an off-white foam. 1H NMR (400 MHz, CDCl3) δ 7.44 (bs, 1 H), 7.11 (bs, 1 H), 7.00 (td, J=2.5, 8.2 Hz, 1 H), 5.31 (t, J=7.7 Hz, 1 H), 4.23 (bs, 1 H), 4.09-3.87 (m, 2 H), 2.91 (bs, 1 H), 2.41 (bs, 1 H), 1.45 (bs, 6 H), 1.26 (d, J=6.5 Hz, 6 H), 1.19 (bs, 3 H). MS m/z 331.1 (M−55)+.

reactant | (R)-tert-butyl 2-(2-bromo-5-fluorophenyl)-4,4-difluoro-pyrrolidine-1-carboxylate | BrC1=C(C=C(C=C1)F)[C@@H]1N(CC(C1)(F)F)C(=O)OC(C)(C)C | C15H17BrF3NO2
reactant | THF | 1.6 mL | C1CCOC1 | C4H8O
reactant | 1,8-diazabicyclo-[5.4.0]undec-7-ene | 1.6 mmol, 239 μL | N12CCCCCC2=NCCC1 | C9H16N2
reactant | isopropylamine | 2.0 mmol, 171 μL | C(C)(C)N | C3H9N
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | molybdenum hexacarbonyl | 0.80 mmol, 211 mg | [C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[C-]#[O+].[Mo]
product | (R)-tert-butyl 4,4-difluoro-2-(5-fluoro-2-(isopropylcarbamoyl)phenyl)pyrrolidine-1-carboxylate | FC1(C[C@@H](N(C1)C(=O)OC(C)(C)C)C1=C(C=CC(=C1)F)C(NC(C)C)=O)F | C19H25F3N2O3
